** sch_path: sim/output-voltage-tc/testbench/tb_vref_tc.sch
**.subckt tb_vref_tc
V1 VDD 0 'vsup'
.save i(v1)
XBG VREF GDRV VDD 0 bandgap_core
**** begin user architecture code


* DC-solver seed, not a forced solution: see the header note. Without it the
* solver can settle on the core's degenerate zero-current state, which is
* what issue #10's startup circuit exists to prevent in silicon.
.nodeset v(vref)=1.2 v(gdrv)=2.2


**** end user architecture code
**.ends

* expanding   symbol:  design/bandgap_core.sym # of pins=4
** sym_path: design/bandgap_core.sym
** sch_path: design/bandgap_core.sch
.subckt bandgap_core VOUT GDRV VDD VSS
*.opin VOUT
*.iopin GDRV
*.iopin VDD
*.iopin VSS
**** begin user architecture code


* ---- Kuijk core parameters (issue #8) ----
* PNP emitter-area ratio N is built ONLY from paralleled unit devices:
*   N = (n_pnp_ptat * 11.56 um2) / (n_pnp_ctat * 0.4624 um2)
* Keep both counts equal to hold the pair's measured dVBE while lowering the
* per-unit current and sigma(dVBE); raise n_pnp_ptat alone for more PTAT.
.param n_pnp_ctat=8
.param n_pnp_ptat=8
* res_high_po unit segment: W = r_w um, L = r_lseg um (R ~ 380 + 325*L ohm)
.param r_w=1
.param r_lseg=5
* segment counts. K = R2/R1 is set by the integer ratio n_r2/n_r1.
.param n_r1=7
.param n_r2=54
* PMOS mirror multiplicities (unit device W=8u L=2u)
.param m_out=2
.param m_ampbias=2
* ---- Trim network (issue #13), DOWNWARD ONLY -- see DR-002 ----
* Ladder-tap length added to R2A/R2B equally (metal option, no switches).
* n_r2_trim: valid range 0..-16 only. r_lseg_trim: 1 um/code (~1.7 mV/code).
* Positive codes are REJECTED: this is the same R2/R1 ratio issue #46 found
* causes ff/2.97V, fs/2.97V hot-corner (>~123C) operating-point collapse at
* even a +5 um increase (n_r2=55). sim/trim-range-monotonicity/ reconfirms
* it for trim and finds codes +1/+2 ALSO collapse (VOUT -> ~2.8V) while +3/
* +4 happen not to -- non-monotonic-in-code, i.e. no positive code is a
* certified-safe point, not a safe zone at +3/+4. Only downward (R2
* decrease) moves away from that edge; confirmed monotonic, collapse-free
* to -16 across corners. See DR-002 and the sim record for the full case.
.param n_r2_trim=0
.param r_lseg_trim=1


**** end user architecture code
XMPOUT VOUT GDRV VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult='m_out' m='m_out'
XMPAMP TAIL GDRV VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult='m_ampbias' m='m_ampbias'
XAMP VB VA GDRV TAIL VDD VSS error_amp
XR2A_0 VA R2A_n1 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_1 R2A_n1 R2A_n2 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_2 R2A_n2 R2A_n3 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_3 R2A_n3 R2A_n4 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_4 R2A_n4 R2A_n5 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_5 R2A_n5 R2A_n6 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_6 R2A_n6 R2A_n7 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_7 R2A_n7 R2A_n8 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_8 R2A_n8 R2A_n9 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_9 R2A_n9 R2A_n10 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_10 R2A_n10 R2A_n11 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_11 R2A_n11 R2A_n12 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_12 R2A_n12 R2A_n13 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_13 R2A_n13 R2A_n14 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_14 R2A_n14 R2A_n15 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_15 R2A_n15 R2A_n16 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_16 R2A_n16 R2A_n17 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_17 R2A_n17 R2A_n18 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_18 R2A_n18 R2A_n19 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_19 R2A_n19 R2A_n20 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_20 R2A_n20 R2A_n21 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_21 R2A_n21 R2A_n22 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_22 R2A_n22 R2A_n23 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_23 R2A_n23 R2A_n24 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_24 R2A_n24 R2A_n25 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_25 R2A_n25 R2A_n26 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_26 R2A_n26 R2A_n27 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_27 R2A_n27 R2A_n28 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_28 R2A_n28 R2A_n29 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_29 R2A_n29 R2A_n30 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_30 R2A_n30 R2A_n31 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_31 R2A_n31 R2A_n32 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_32 R2A_n32 R2A_n33 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_33 R2A_n33 R2A_n34 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_34 R2A_n34 R2A_n35 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_35 R2A_n35 R2A_n36 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_36 R2A_n36 R2A_n37 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_37 R2A_n37 R2A_n38 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_38 R2A_n38 R2A_n39 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_39 R2A_n39 R2A_n40 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_40 R2A_n40 R2A_n41 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_41 R2A_n41 R2A_n42 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_42 R2A_n42 R2A_n43 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_43 R2A_n43 R2A_n44 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_44 R2A_n44 R2A_n45 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_45 R2A_n45 R2A_n46 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_46 R2A_n46 R2A_n47 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_47 R2A_n47 R2A_n48 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_48 R2A_n48 R2A_n49 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_49 R2A_n49 R2A_n50 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2A_50 R2A_n50 R2A_n51 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_51 R2A_n51 R2A_n52 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_52 R2A_n52 R2A_n53 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_53 R2A_n53 R2A_n54 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_54 R2A_n54 R2A_n55 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_55 R2A_n55 R2A_n56 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_56 R2A_n56 R2A_n57 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_57 R2A_n57 R2A_n58 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_58 R2A_n58 R2A_n59 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_59 R2A_n59 R2A_n60 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_60 R2A_n60 R2A_n61 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_61 R2A_n61 R2A_n62 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_62 R2A_n62 R2A_n63 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_63 R2A_n63 R2A_n64 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_64 R2A_n64 R2A_n65 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_65 R2A_n65 R2A_n66 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_66 R2A_n66 R2A_n67 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_67 R2A_n67 R2A_n68 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_68 R2A_n68 R2A_n69 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2A_69 R2A_n69 VOUT VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_0 VB R2B_n1 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_1 R2B_n1 R2B_n2 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_2 R2B_n2 R2B_n3 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_3 R2B_n3 R2B_n4 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_4 R2B_n4 R2B_n5 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_5 R2B_n5 R2B_n6 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_6 R2B_n6 R2B_n7 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_7 R2B_n7 R2B_n8 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_8 R2B_n8 R2B_n9 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_9 R2B_n9 R2B_n10 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_10 R2B_n10 R2B_n11 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_11 R2B_n11 R2B_n12 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_12 R2B_n12 R2B_n13 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_13 R2B_n13 R2B_n14 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_14 R2B_n14 R2B_n15 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_15 R2B_n15 R2B_n16 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_16 R2B_n16 R2B_n17 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_17 R2B_n17 R2B_n18 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_18 R2B_n18 R2B_n19 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_19 R2B_n19 R2B_n20 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_20 R2B_n20 R2B_n21 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_21 R2B_n21 R2B_n22 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_22 R2B_n22 R2B_n23 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_23 R2B_n23 R2B_n24 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_24 R2B_n24 R2B_n25 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_25 R2B_n25 R2B_n26 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_26 R2B_n26 R2B_n27 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_27 R2B_n27 R2B_n28 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_28 R2B_n28 R2B_n29 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_29 R2B_n29 R2B_n30 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_30 R2B_n30 R2B_n31 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_31 R2B_n31 R2B_n32 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_32 R2B_n32 R2B_n33 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_33 R2B_n33 R2B_n34 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_34 R2B_n34 R2B_n35 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_35 R2B_n35 R2B_n36 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_36 R2B_n36 R2B_n37 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_37 R2B_n37 R2B_n38 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_38 R2B_n38 R2B_n39 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_39 R2B_n39 R2B_n40 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_40 R2B_n40 R2B_n41 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_41 R2B_n41 R2B_n42 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_42 R2B_n42 R2B_n43 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_43 R2B_n43 R2B_n44 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_44 R2B_n44 R2B_n45 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_45 R2B_n45 R2B_n46 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_46 R2B_n46 R2B_n47 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_47 R2B_n47 R2B_n48 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_48 R2B_n48 R2B_n49 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_49 R2B_n49 R2B_n50 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR2B_50 R2B_n50 R2B_n51 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_51 R2B_n51 R2B_n52 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_52 R2B_n52 R2B_n53 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_53 R2B_n53 R2B_n54 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_54 R2B_n54 R2B_n55 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_55 R2B_n55 R2B_n56 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_56 R2B_n56 R2B_n57 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_57 R2B_n57 R2B_n58 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_58 R2B_n58 R2B_n59 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_59 R2B_n59 R2B_n60 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_60 R2B_n60 R2B_n61 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_61 R2B_n61 R2B_n62 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_62 R2B_n62 R2B_n63 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_63 R2B_n63 R2B_n64 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_64 R2B_n64 R2B_n65 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_65 R2B_n65 R2B_n66 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_66 R2B_n66 R2B_n67 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_67 R2B_n67 R2B_n68 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_68 R2B_n68 R2B_n69 VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XR2B_69 R2B_n69 VOUT VSS sky130_fd_pr__res_high_po W=1.0 L=1.0 mult=1 m=1
XQ1 VSS VSS VA sky130_fd_pr__pnp_05v5_W0p68L0p68 m='n_pnp_ctat' mult='n_pnp_ctat'
XR1_0 VBQ R1_n1 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR1_1 R1_n1 R1_n2 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR1_2 R1_n2 R1_n3 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR1_3 R1_n3 R1_n4 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR1_4 R1_n4 R1_n5 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR1_5 R1_n5 R1_n6 VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XR1_6 R1_n6 VB VSS sky130_fd_pr__res_high_po W=1.0 L=5.0 mult=1 m=1
XQ2 VSS VSS VBQ sky130_fd_pr__pnp_05v5_W3p40L3p40 m='n_pnp_ptat' mult='n_pnp_ptat'
.ends


* expanding   symbol:  design/error_amp.sym # of pins=6
** sym_path: design/error_amp.sym
** sch_path: design/error_amp.sch
.subckt error_amp VINP VINN AOUT ITAIL VDD VSS
*.ipin VINP
*.ipin VINN
*.opin AOUT
*.iopin ITAIL
*.iopin VDD
*.iopin VSS
**** begin user architecture code


* ---- error-amp device multiplicities (issue #9 sizing) ----
* Unit geometry is fixed on the instances below; mult is the matching axis
* (sigma(Vth) scales as 1/sqrt(W*L*mult) in the PDK's own model).
* amp_m_in    : input-pair PMOS units   (W=20u L=10u each -> 3200 um^2 total)
* amp_m_nmirr : NMOS load/mirror units  (W=8u  L=20u each ->  640 um^2 total)
* amp_m_pmirr : PMOS mirror units       (W=6u  L=20u each ->  960 um^2 total)
* amp_m_cc    : MOS-capacitor units     (W=30u L=20u each -> 9600 um^2 total)
.param amp_m_in=16
.param amp_m_nmirr=4
.param amp_m_pmirr=8
.param amp_m_cc=16


**** end user architecture code
XMP1 D1 VINP ITAIL VDD sky130_fd_pr__pfet_g5v0d10v5 L=10 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0
+ sd=0 mult='amp_m_in' m='amp_m_in'
XMP2 D2 VINN ITAIL VDD sky130_fd_pr__pfet_g5v0d10v5 L=10 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0
+ sd=0 mult='amp_m_in' m='amp_m_in'
XMN1 D1 D1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0
+ mult='amp_m_nmirr' m='amp_m_nmirr'
XMN2 D2 D2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0
+ mult='amp_m_nmirr' m='amp_m_nmirr'
XMN3 AOUT D1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0
+ sd=0 mult='amp_m_nmirr' m='amp_m_nmirr'
XMN4 PN D2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=20 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0
+ mult='amp_m_nmirr' m='amp_m_nmirr'
XMP4 AOUT PN VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333 nrs=0.0483333333333333
+ sa=0 sb=0 sd=0 mult='amp_m_pmirr' m='amp_m_pmirr'
XMP3 PN PN VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58 nrd=0.0483333333333333 nrs=0.0483333333333333
+ sa=0 sb=0 sd=0 mult='amp_m_pmirr' m='amp_m_pmirr'
XMCC VDD AOUT VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=20 W=30 nf=1 ad=8.7 as=8.7 pd=60.58 ps=60.58 nrd=0.00966666666666667 nrs=0.00966666666666667
+ sa=0 sb=0 sd=0 mult='amp_m_cc' m='amp_m_cc'
.ends

.end
